US04996358
2.85 g of isobutylacrylic acid and 10.9 g of O-benzylhydroxylamine were heated under reflux in 30 ml of methanol for 8 days. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate and water. The organic layer was washed with 2N hydrochloric acid and water and then extracted six times with 30 ml of 5% sodium hydrogen carbonate solution each time. The aqueous solutions were combined, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to give an oil which soon crystallized. Trituration with petroleum yielded 1.92 g (35%) of N-benzyloxy 2(RS)-isobutyl-3-aminopropionic acid of melting point 73°-75° C. Rf (toluene/acetic acid 4:1) 0.52.

reactant | isobutylacrylic acid | 2.85 g | C(C(C)C)C(C(=O)O)=C | C7H12O2
reactant | O-benzylhydroxylamine | 10.9 g | C(C1=CC=CC=C1)ON | C7H9NO
solvent | methanol | 30 ml | CO | CH4O
product | N-benzyloxy 2(RS)-isobutyl-3-aminopropionic acid | 1.92 g, 35% | C(C1=CC=CC=C1)ONCC(C(=O)O)CC(C)C | C14H21NO3
